US07521579B2
2-(4-Chlorophenyl)-2-hydroxyacetic acid (40 g; 0.2 mol) is dissolved in 100 ml of methanol and stirred at +20° C. At this temperature 5 ml of concentrated sulfuric acid are added dropwise. After the addition is complete the reaction mixture is heated up to +45° C. and stirred for further 30 minutes. Then the reaction mixture is poured into a cooled (0° C.) solution of sodium carbonate (42 g; 0.4 mol) in 300 ml of water. The product is extracted with toluene (3×50 ml) washed with brine (3×50 ml) dried (Na2SO4) and evaporated. After crystallization from diethylether/hexane (10 g/80 g) 2-(4-chlorophenyl)-2-hydroxyacetic acid methylester (34 g; 84% yield) is obtained as a colorless solid. M.p. 54-55° C.

reactant | 2-(4-Chlorophenyl)-2-hydroxyacetic acid | 0.2 mol, 40 g | ClC1=CC=C(C=C1)C(C(=O)O)O | C8H7ClO3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 0.4 mol, 42 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethylether hexane | 10 g | C(C)OCC.CCCCCC
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 2-(4-chlorophenyl)-2-hydroxyacetic acid methylester | 34 g, 84% yield | COC(C(O)C1=CC=C(C=C1)Cl)=O | C9H9ClO3
